US07585868B2
A solution of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (2 g, 0.0077 mol) and K2CO3 (4.2 g, 0.031 mol) in DMF (50 mL) was brought to 80° C. under an argon atmosphere. Isopropylbromide (1.0 g, 0.0084 mol) was added with a syringe. Reaction was refluxed under argon atmosphere for 2 hours. Solid K2CO3 was removed by filtration. Solvent was partially removed in vacuo. Sodium citrate (50 mL) was added and reaction was extracted with EtOAc. Organic phases concentrated in vacuo and purified using silica gel column chromatography [MeOH—CH2Cl2, 5:95] yielding BA12 (1.68 g, 72% yield). ESI-MS (M+H)+ m/z calcd 304.0, found 304.1.

reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0077 mol, 2 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | K2CO3 | 0.031 mol, 4.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Isopropylbromide | 0.0084 mol, 1.0 g | C(C)(C)Br | C3H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.68 g, 72% yield | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
